US06596772B1
2-Hydroxy-5-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-terephthalic acid diethyl ester (26).
To a solution of diethyl 2,5-dihydroxyterephthalate (100 mg, 0.393 mmol) in THF was added sodium hydride (32 mg of 60% dispersion in mineral oil) followed by 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (228 mg, 0.787 mmol). The mixture was stirred at room temperature for overnight. The reaction was extracted with ethyl acetate, the organic layer was washed with water and brine, dried, concentrated and purified to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 10.77 (br s, 1H, OH), 8.78 (d, J=2.3 Hz, 1H), 8.22 (dd, J=2.3 & 9.0 Hz, 1H), 7.82(s, 1H), 7.56 (s, 1H), 7.19 (d, J=9.0 Hz, 1H), 4.32 (q, J=7.2 Hz, 2H, OCH2CH3), 4.09 (q, J=7.2 Hz, 2H, OCH2CH3), 1.3 (t, J=7.2 Hz, 3H, OCH2CH3), 0.92 (t, J=7.2 Hz, 3H, OCH2CH3).

reactant | diethyl 2,5-dihydroxyterephthalate | 0.393 mmol, 100 mg | OC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)O | C12H14O6
reactant | sodium hydride | 32 mg | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 0.787 mmol, 228 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
solvent | THF | C1CCOC1 | C4H8O
product | 2-Hydroxy-5-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-terephthalic acid diethyl ester | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])O)=O | C19H16F3NO10S
